US07109228B2
3-Chloro-5,5-dimethyl-2,4-hexanedione
Chlorotrimethylsilane (26.8 ml, 0.21 mol) was added dropwise to a stirred pale yellow solution of tetrabutylammonium bromide (1.13 g, 3.50 mmol) in dry acetonitrile (100 ml) at room temperature under nitrogen. The resulting solution was cooled in ice and 5,5-dimethylhexane-2,4-dione (10.0 g, 70.4 mmol) and then dry dimethylsulphoxide (14.7 ml, 0.21 mol) were added dropwise over 5 minutes producing a yellow solution which was allowed to warm slowly to room temperature with stirring over 3 hours. The mixture was diluted with water (1000 ml) and stirred for 10 min and then extracted with ether (1×500 ml, 2×250 ml). The combined ether layers were dried over magnesium sulphate, filtered and concentrated under reduced pressure to leave a yellow oil. The crude product was purified by distillation under reduced pressure to provide the title compound (10.0 g) as a pale yellow oil, b.p. 220–225° C./60 mmHg.

reactant | Chlorotrimethylsilane | 0.21 mol, 26.8 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | 5,5-dimethylhexane-2,4-dione | 70.4 mmol, 10.0 g | CC(C(CC(C)=O)=O)(C)C | C8H14O2
reactant | dimethylsulphoxide | 0.21 mol, 14.7 ml | CS(=O)C | C2H6OS
catalyst | tetrabutylammonium bromide | 3.50 mmol, 1.13 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | water | 1000 ml | O | H2O
product | 3-Chloro-5,5-dimethyl-2,4-hexanedione | 10.0 g | ClC(C(C)=O)C(C(C)(C)C)=O | C8H13ClO2
